* H:\Mon Drive\2025-2026_polytech_sorbonne\S6\UE-Electronique\Composants_et_circuit_microelectrique\TP_conception_micro_electronique\Sujet_TP_YEK\Simulation\Simu_C_bonus\Simu_C_bonus.asc
* Generated by LTspice 26.0.1 for Windows.
Vgs N001 Vsg AC 1
Vds N001 Vsd 5 AC 1
V1 N001 0 5V
M1 Vsd Vsg N001 N001 PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\elkat\AppData\Local\LTspice\lib\cmp\standard.mos
.MODEL PMOS_CD4007 PMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=6E-8 XJ=2.26E-7 NCH=3E15 NSUB=8E14 XT=8.66E-8
+VTH0=-1.65 U0= 225 WINT=1.0E-6 LINT=1E-6
+NGATE=5E20 RSH=800 JS=3.51E-8 JSW=3.51E-8 CJ=5.28E-8 MJ=0.5 PB=0.94
+CJSW=1.19E-10 MJSW=0.5 PBSW=0.94 PCLM=5
+CGSO=4.5E-10 CGDO=4.5E-10 CGBO=5.75E-10)
.MODEL NMOS_CD4007 NMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=6E-8 XJ=2.9E-7 NCH=4E15 NSUB=5.33E15 XT=8.66E-8
+VTH0=1.4 U0= 925 WINT=2.0E-7 LINT=1E-7
+NGATE=5E20 RSH=200 JS=3.23E-8 JSW=3.23E-8 CJ=6.8E-8 MJ=0.5 PB=0.95
+CJSW=1.26E-10 MJSW=0.5 PBSW=0.95 PCLM=5
+CGSO=3.4E-10 CGDO=3.4E-10 CGBO=5.75E-10)
.dc Vds 0 5 0.1 Vgs list 2.5 3.0 3.5
* .dc Vgs 0 -5 -0.1
.backanno
.end
